US07354929B2
Preparation of 2-(2-chlorophenyl)-3-(4-chlorophenyl)-6-(2,2,2-trifluoroethyl)-2H-pyrazolo[3,4-c]pyridin-7(6H)-one (9A-1)
A mixture of 2-(2-chlorophenyl)-3-(4-chlorophenyl)-2H-pyrazolo[3,4-c]pyridin-7-ol (I-9A-1b: 150 mg, 0.421 mmol), 2,2,2-trifluoroethyl trifluoromethanesulfonate (107 mg, 0.463 mmol) and Cs2CO3 (151 mg, 0.463 mmol) in DMF (2.1 ml) were stirred overnight at room temperature. The reaction mixture was extracted from saturated aqueous NaHCO3 with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), concentrated in vacuo, and then purified on a Biotage™ Flash 12M column using 0-40% ethyl acetate in hexanes as eluant to give the title compound 9A-1 (145 mg, 79%) as a colorless solid: +ES MS (M+1) 438.3; 1H NMR (CD2Cl2) 67 7.70 (d, J=6.2 Hz, 1H), 7.59-7.56 (m, 1H), 7.52-7.43 (m, 3H), 7.38-7.34 (m, 2H), 7.29-7.25 (m, 3H), 5.03 (br s, 2H).

reactant | 2-(2-chlorophenyl)-3-(4-chlorophenyl)-2H-pyrazolo[3,4-c]pyridin-7-ol | 0.421 mmol, 150 mg | ClC1=C(C=CC=C1)N1N=C2C(=NC=CC2=C1C1=CC=C(C=C1)Cl)O | C18H11Cl2N3O
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.463 mmol, 107 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | Cs2CO3 | 0.463 mmol, 151 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2.1 ml | CN(C)C=O | C3H7NO
product | 2-(2-chlorophenyl)-3-(4-chlorophenyl)-6-(2,2,2-trifluoroethyl)-2H-pyrazolo[3,4-c]pyridin-7(6H)-one | ClC1=C(C=CC=C1)N1N=C2C(N(C=CC2=C1C1=CC=C(C=C1)Cl)CC(F)(F)F)=O | C20H12Cl2F3N3O
